US06479536B1
3,4-Dimethoxy-N-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]benzamide
By using 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine and 3,4-dimethoxybenzoyl chloride, the title compound was synthesized according to Example 1b. Yield: 90%. Melting point: 169-171° C. (Ethyl acetate-hexane)

reactant | 2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-amine | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N)C)C | C20H25NO
reactant | 3,4-dimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3,4-Dimethoxy-N-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]benzamide | Yield: 90% | COC=1C=C(C(=O)NC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)C)C2C)C)C)C=CC1OC | C29H33NO4
